US08071592B2
6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one Hydrochloride
A solution of 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone (100 mg; 0.33 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (for a synthesis, see WO2004058144, Example 7(d) (64 mg, 0.33 mmol) in methanol (2 mL), DCM (4 mL) was stirred at room temperature overnight. Sodium triacetoxyborohydride (0.13 g; 0.6 mmol) was added and the mixture was stirred at room temperature for 1 hours. The reaction was evaporated and chromatographed on silica gel, eluting with 0-10% methanol-DCM-1% NH4OH to give an oil. The oil was treated with 1M HCl in Et2O to give the title compound (60 mg) as the dihydrochloride salt.

reactant | 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 0.33 mmol, 100 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | Sodium triacetoxyborohydride | 0.6 mmol, 0.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 2 mL | CO | CH4O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one Hydrochloride | 60 mg | Cl.FC1=CC=C2C=CC(N(C2=C1)CCN1C[C@@H]([C@@H](C1)O)CNCC=1C=CC=2SCC(NC2N1)=O)=O | InChI=1S/C24H26FN5O3S.ClH/c25-17-3-1-15-2-6-23(33)30(19(15)9-17)8-7-29-12-16(20(31)13-29)10-26-11-18-4-5-21-24(27-18)28-22(32)14-34-21;/h1-6,9,16,20,26,31H,7-8,10-14H2,(H,27,28,32);1H/t16-,20+;/m0./s1
